US03996229
17.8 G. of 3-methoxy-8-methylthio-dibenzo[b,f]thiepin-10(11H)-one are suspended in 150 ml. of ethanol and treated with 3.8 g. of sodium borohydride. The mixture is stirred for 90 minutes, subsequently treated with water and extracted with ether. The organic phase is washed with water, dried over magnesium sulfate, evaporated, and there is obtained 10,11-dihydro-3-methoxy-8-methylthio-dibenzo-[b,f]thiepin- 10-ol having a melting point of 122°-124° C.

reactant | 3-methoxy-8-methylthio-dibenzo[b,f]thiepin-10(11H)-one | COC=1C=CC2=C(SC3=C(C(C2)=O)C=C(C=C3)SC)C1 | C16H14O2S2
reactant | ethanol | C(C)O | C2H6O
reactant | sodium borohydride | [BH4-].[Na+]
solvent | water | O | H2O
product | 10,11-dihydro-3-methoxy-8-methylthio-dibenzo-[b,f]thiepin- 10-ol | COC=1C=CC2=C(SC3=C(C(C2)O)C=C(C=C3)SC)C1 | C16H16O2S2
